US04128576
A 500 ml flask fitted with a reflux condenser was charged with 29.7 grams (0.1 mol) of 3-(4-nitrophenacyl)phthalide, 0.12 mol of freshly distilled thionyl chloride and 100 ml of benzene. The mixture was heated to reflux temperature on a steambath, and a clear solution formed on initiation of refluxing, with evolution of HCl. The evolution ceased after 1 hour, after which benzene and excess unreacted thionyl chloride were distilled off under reduced pressure. The residual solid in the flask was triturated with ligroin, filtered and dried to yield o-(4'-nitrobenzoylvinyl)benzoyl chloride, m.p. 133°-134° C. Analysis shows 59.4% carbon, 3.36% hydrogen, 4.56% nitrogen and 11.72% chlorine as against calculated values of 60.87%, 3.19%, 4.44% and 11.23% for C16H10ClNO4.

reactant | 3-(4-nitrophenacyl)phthalide | 0.1 mol, 29.7 grams | [N+](=O)([O-])C1=CC=C(C(CC2OC(=O)C3=CC=CC=C23)=O)C=C1 | C16H11NO5
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | HCl | Cl | ClH
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
product | o-(4'-nitrobenzoylvinyl)benzoyl chloride | [N+](=O)([O-])C1=CC=C(C(=O)C=CC2=C(C(=O)Cl)C=CC=C2)C=C1 | C16H10ClNO4
